US05025036
4-[3-(3,4-Dimethoxyphenyl)propoxy]-2-hydroxy-3-propylbenzoic acid
A solution of 7.1 g of 4-[3-(3,4-dimethoxyphenyl)propoxy]-2-hydroxy-3-propylbenzoic acid methyl ester in 180 mL of methanol and 90 mL of 1N sodium hydroxide was stirred at reflux for 1 hour. The solvent was removed under reduced pressure, the residue was acidified and the product was extracted with methylene chloride. The dried (MgSO4) extract was concentrated to 6.5 g, mp 104°-110°, of 4-[3-(3,4-dimethoxyphenyl)propoxy]-2-hydroxy-3-propylbenzoic acid.

reactant | 4-[3-(3,4-dimethoxyphenyl)propoxy]-2-hydroxy-3-propylbenzoic acid methyl ester | 7.1 g | COC(C1=C(C(=C(C=C1)OCCCC1=CC(=C(C=C1)OC)OC)CCC)O)=O | C22H28O6
solvent | methanol | 180 mL | CO | CH4O
solvent | sodium hydroxide | 1N, 90 mL | [OH-].[Na+]
product | 4-[3-(3,4-Dimethoxyphenyl)propoxy]-2-hydroxy-3-propylbenzoic acid | COC=1C=C(C=CC1OC)CCCOC1=C(C(=C(C(=O)O)C=C1)O)CCC | C21H26O6
